US06846832B2
d) [1-Oxo-5-(4-trifluoromethyl-benzyloxy)-1,3-dihydro-isoindol-2-yl]-acetonitrile
To a cooled (0° C.) solution of 4-(4-trifluoromethyl-benzyloxy)-benzene-1,2-dicarbaldehyde (250.0 mg, 0.81 mmol) in DMF (7 mL) was added aminoacetonitrile HCl (150.1 mg, 1.62 mmol) and triethylamine (164.1 mg, 1.62 mmol) and the resulting mixture was warmed up to RT over 1 h and then heated at 50° C. for 1 h. After cooling to RT, the mixture was evaporated and the residue partioned between ethyl acetate and hydrochloric acid (1 N). The organic layer was then dried over sodium sulfate, filtered and evaporated to leave a clear oil which was purified by chromatography (SiO2, DCM:MeOH 9:1) to afford the title product (19.6 mg, 7%) as a light brown solid. MS m/e 345.2 (M−H−).

reactant | 4-(4-trifluoromethyl-benzyloxy)-benzene-1,2-dicarbaldehyde | 0.81 mmol, 250.0 mg | FC(C1=CC=C(COC=2C=C(C(=CC2)C=O)C=O)C=C1)(F)F | C16H11F3O3
reactant | aminoacetonitrile HCl | 1.62 mmol, 150.1 mg | Cl.NCC#N
reactant | triethylamine | 1.62 mmol, 164.1 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | [1-Oxo-5-(4-trifluoromethyl-benzyloxy)-1,3-dihydro-isoindol-2-yl]-acetonitrile | 19.6 mg, 7% | O=C1N(CC2=CC(=CC=C12)OCC1=CC=C(C=C1)C(F)(F)F)CC#N | C18H13F3N2O2
